US05134149
To a stirred solution of veratrole (0.93 g, 6.7 mmol) in THF (20 mL) under argon at 0° C. was added n-BuLi (2.7 mL of a 2.5 M solution in hexane, 6.75 mmol). After stirring 2.5 h, the solution was cooled to -78° C. and treated with 1-[2-(4-fluorophenyl)ethyl]-4-piperidinecarboxaldehyde (1.30 g, 5.5 mmol) in THF (25 mL) via an addition funnel. The cooling bath was removed and the solution was allowed to stir for 2 hours. Water was added, the layers separated, and the aqueous layer was extracted with EtOAc. The combined organic layers were washed with brine, dried (MgSO4), filtered, and chromatographed on silica gel, eluting with acetone. The appropriate fractions were combined and evaporated to afford a white solid. The solid was recrystallized from hexane to afford racemic α-(2,3-dimethoxyphenyl)-1-[2-(4-fluorophenyl)ethyl]-4-piperidinemethanol as shiny white needles, m.p. 126°-127° C. Anal. Calcd for C22H28FNO3 : C, 70.75; H, 7.56; N, 3.75. Found: C, 70.87; H, 7.65; N, 3.68.

reactant | veratrole | 6.7 mmol, 0.93 g | C=1(C(OC)=CC=CC1)OC | C8H10O2
reactant | n-BuLi | [Li]CCCC
reactant | 1-[2-(4-fluorophenyl)ethyl]-4-piperidinecarboxaldehyde | 5.5 mmol, 1.30 g | FC1=CC=C(C=C1)CCN1CCC(CC1)C=O | C14H18FNO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | racemic α-(2,3-dimethoxyphenyl)-1-[2-(4-fluorophenyl)ethyl]-4-piperidinemethanol | COC1=C(C=CC=C1OC)C(O)C1CCN(CC1)CCC1=CC=C(C=C1)F | C22H28FNO3
